US07132449B2
iso-Butyl chloroformate (33.64 mg, 0.2463 mmol) in dichloromethane (2 ml) and N-methyl morpholine (49.83 mg, 0.4927 mmol) in dichloromethane (2 ml) were simultaneously added to a stirred solution of (R)-2-isobutyl succinic acid 1-methyl ester (42.15 mg, 0.2239 mmol) in dichloromethane (2 ml) at −15° C. under argon over 5 minutes. The mixture was stirred at −15° C. for 15 minutes. A freshly prepared solution of 1,2,3,4-tetrahydro-isoquinoline (29.83 mg, 0.2239 mmol) in dichloromethane (2 ml) and N-methylmorpholine (24.92 mg, 0.2463 mmol) was then added dropwise. The mixture was then stirred at ambient temperature for 16 hours. The reaction mixture was poured into saturated aqueous sodium chloride solution (1 ml). The aqueous layer was extracted with diethyl ether (2×5 ml) which was discarded. The aqueous layer was acidified with 1M hydrochloric acid to pH (12), then the product was extracted into dichloromethane (3×5 ml). The combined dichloromethane layers were washed with water (2×5 ml), saturated aqueous sodium chloride solution (2×5 ml) then dried (Na2SO4). The solvent was removed in vacuo to give a residue which was purified over silica gel eluting with a gradient of n-heptane:ethyl acetate 4:1. Desired fractions were combined and reduced in vacuo to leave 2-[2-(3,4-Dihydro-1H-isoquinolin-2-yl)-2-oxo-ethyl]-4-methyl-pentanoic acid methyl ester as a colourless oil (35 mg, 51.5% from starting acid). TLC (single UV spot, Rf=0.6, n-heptane:ethyl acetate 1:1), HPLC-MS (single UV peak with Rt=9.544 mins, 304.2 [M+H]+, 305.2 [M+2]+, 306.2 [M+3]+, 629.3 [2M+Na]+.

reactant | iso-Butyl chloroformate | 0.2463 mmol, 33.64 mg | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methyl morpholine | 0.4927 mmol, 49.83 mg | CN1CCOCC1 | C5H11NO
reactant | (R)-2-isobutyl succinic acid 1-methyl ester | 0.2239 mmol, 42.15 mg | COC([C@@H](CC(=O)O)CC(C)C)=O | C9H16O4
reactant | 1,2,3,4-tetrahydro-isoquinoline | 0.2239 mmol, 29.83 mg | C1NCCC2=CC=CC=C12 | C9H11N
reactant | N-methylmorpholine | 0.2463 mmol, 24.92 mg | CN1CCOCC1 | C5H11NO
reactant | sodium chloride | 1 ml | [Cl-].[Na+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 2-[2-(3,4-Dihydro-1H-isoquinolin-2-yl)-2-oxo-ethyl]-4-methyl-pentanoic acid methyl ester | COC(C(CC(C)C)CC(=O)N1CC2=CC=CC=C2CC1)=O | C18H25NO3
